US04065573
A mixture of 8.0 g. (0.0304 mole) of 4-(2-thienyl)-4-cyano-2-carbomethoxycyclohexanone in 200 ml. acetic acid and 100 ml. 10% aqueous sulfuric acid is heated on the steam bath with mechanical stirring for 24 hours. The mixture is then allowed to cool, diluted with water and extracted thoroughly with benzene. The organic layer is washed in turn with water, aqueous sodium bicarbonate and brine and taken to dryness. The residual solid is recrystallized from methylene chloride:Skellysolve B to afford 4.10 g. (66% yield) of 4-(2-thienyl)-4-cyanocyclohexanone, m.p. 117.5°-119° C.

reactant | 4-(2-thienyl)-4-cyano-2-carbomethoxycyclohexanone | 0.0304 mole | S1C(=CC=C1)C1(CC(C(CC1)=O)C(=O)OC)C#N | C13H13NO3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4-(2-thienyl)-4-cyanocyclohexanone | 66% yield | S1C(=CC=C1)C1(CCC(CC1)=O)C#N | C11H11NOS
